US04205166
To a suspension of 7-{2-(2-thienyl)acetamido}-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.39 g.) in water (27 ml.) was added 1 N aqueous sodium hydroxide solution (3 ml.) to dissolve. After hydroxymethanesulfonic acid sodium salt hydrate (456 mg.) was added to the resultant solution, the solution was stirred at room temperature for 4.5 hours, was lyophilized to give di-sodium 7-(2-thienyl)acetamido-3-(5-sulfomethylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate m.p. 112° to 120° C. (dec.).

reactant | 7-{2-(2-thienyl)acetamido}-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.39 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O | C17H17N5O4S4
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
reactant | hydroxymethanesulfonic acid sodium salt hydrate | 456 mg | O.[Na+].OCS(=O)(=O)[O-]
solvent | water | 27 ml | O | H2O
product | di-sodium 7-(2-thienyl)acetamido-3-(5-sulfomethylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNCS(=O)(=O)O)C(=O)[O-])C1=O.[Na+].[Na+].S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNCS(=O)(=O)O)C(=O)[O-])C1=O | InChI=1S/2C18H19N5O7S5.2Na/c2*24-11(4-10-2-1-3-31-10)20-13-15(25)23-14(17(26)27)9(6-32-16(13)23)7-33-18-22-21-12(34-18)5-19-8-35(28,29)30;;/h2*1-3,13,16,19H,4-8H2,(H,20,24)(H,26,27)(H,28,29,30);;/q;;2*+1/p-2/t2*13?,16-;;/m11../s1
